US06858558B2
Trimethylchlorsilane (29.1 g, 268 mmol) was slowly added to a solution of (1-methyl-cyclohexyl)cyclopentadienyllithium (43.34 g, 258 mmol) in THF (350 ml). After refluxing the mixture for 3,5 h, the solvent was removed in vacuo and the residue was distilled under reduced pressure to give (1-methylcyclohexyl)cyclopentadienyltrimethylsilane as yellow oil.

reactant | Trimethylchlorsilane | 268 mmol, 29.1 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | (1-methyl-cyclohexyl)cyclopentadienyllithium | 258 mmol, 43.34 g | CC1(CCCCC1)C1(C=CC=C1)[Li]
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | (1-methylcyclohexyl)cyclopentadienyltrimethylsilane | Yield: 57% | CC1(CCCCC1)C[Si](C)(C)C1C=CC=C1 | C15H26Si
